US08222246B2
N-Cyclopropyl-6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinamide
Trimethylaluminium solution (2M in toluene, 0.51 mL, 1.00 mmol) was added to a solution of cyclopropylamine (71.9 μL, 1.00 mmol) in dioxane (4.0 mL). After 45 min stirring at 50° C. a solution of 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (90 mg, 0.25 mmol) in dioxane (4.0 mL) was added and stirring was continued overnight at 85° C. The dioxane was removed by distillation. The remaining material was purified by chromatography (silica, ethyl acetate) to afford the title compound (40 mg, 42%) as light brown solid. MS: m/e=382.1 [M−H]−.

reactant | Trimethylaluminium | 1.00 mmol, 2M, 0.51 mL | C[Al](C)C
reactant | cyclopropylamine | 1.00 mmol, 71.9 μL | C1(CC1)N | C3H7N
reactant | 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.25 mmol, 90 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC=C(C=C1)F)=O | C18H15FN2O5
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | N-Cyclopropyl-6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinamide | 40 mg, 42% | C1(CC1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC=C(C=C1)F)=O | C20H18FN3O4
